US04374843
A mixture of 50 g (0.14 mol) of 2-bromo-1-(2-guanidino-4-thiazolyl)ethanone hydrobromide, 23.6 g (0.36 mol) of sodium azide, and 250 ml of dimethylformamide was stirred at room temperature for 1.5 hours. The mixture was poured into 1.5 liters of water, and the aqueous solution was made basic with solid sodium carbonate. The resulting precipitate was filtered, washed well with water, and dried, thereby affording 30.6 g (93%) of 2-azido-1-(2-guanidino-4-thiazolyl)ethanone as a light brown crystalline solid, mp 177° (dec). Analytically pure material can be prepared by recrystallization from absolute ethanol: Calcd. for C6H7N7OS: C, 32.00; H, 3.13; N, 43.53; S. 14.24; found: C, 32.22; H, 3.43; N, 41.93; S, 13.97.

reactant | 2-bromo-1-(2-guanidino-4-thiazolyl)ethanone hydrobromide | 0.14 mol, 50 g | Br.BrCC(=O)C=1N=C(SC1)NC(=N)N
reactant | sodium azide | 0.36 mol, 23.6 g | [N-]=[N+]=[N-].[Na+]
reactant | dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 1.5 liters | O | H2O
product | 2-azido-1-(2-guanidino-4-thiazolyl)ethanone | 30.6 g, 93% | N(=[N+]=[N-])CC(=O)C=1N=C(SC1)NC(=N)N | C6H7N7OS
